US04845110
(f) 3-(3-Cyanophenyl)-1-trimethylsilyloxy-1-propene
A stirred solution of 3-(3-cyanophenyl)propanal (3.1 g), trimethylsilyl chloride (3.0 ml) and triethylamine (6.5 ml) in dimethylformamide (45 ml) was heated under reflux on an oil bath at 150°-160° C. for 4 hours. The mixture was cooled and filtered and the filtrate was diluted with hexane (200 ml) and rapidly washed successively with cold sodium bicarbonate solution, cold dilute hydrochloric acid and cold sodium bicarbonate solution again. The hexane solution was dried and evaporated and the residue was distilled under vacuum in a bulb-to-bulb apparatus to give the product as a colourless oil, b.p. 140°-150° C./0.1 mm.

reactant | 3-(3-cyanophenyl)propanal | 3.1 g | C(#N)C=1C=C(C=CC1)CCC=O | C10H9NO
reactant | trimethylsilyl chloride | 3.0 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 6.5 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 3-(3-Cyanophenyl)-1-trimethylsilyloxy-1-propene | C(#N)C=1C=C(C=CC1)CC=CO[Si](C)(C)C | C13H17NOSi
